US20010056109A1
(g) 3-(1H-Imidazol-4-ylmethyl)-2-phenylindan-5-ol
A mixture of 4-[(2,3-dihydro-6-methoxy-2-phenyl-1H-inden-1-yl)methyl]-1H-imidazole (370 mg as base) and 48 wt. % hydrobromic acid (15 ml) was heated at 130-140° C. for 2 hours with stirring. The cooled reaction mixture was poured into water and made basic (pH 8). The resulting precipitate was filtered and washed with water. The product was purified by flash chromatography (elution with a dichloromethane—methanol gradient).

reactant | 4-[(2,3-dihydro-6-methoxy-2-phenyl-1H-inden-1-yl)methyl]-1H-imidazole | 370 mg | COC1=CC=C2CC(C(C2=C1)CC=1N=CNC1)C1=CC=CC=C1 | C20H20N2O
reactant | hydrobromic acid | 15 ml | Br | BrH
solvent | water | O | H2O
product | 3-(1H-Imidazol-4-ylmethyl)-2-phenylindan-5-ol | N1C=NC(=C1)CC1C(CC2=CC=C(C=C12)O)C1=CC=CC=C1 | C19H18N2O
